US07759365B2
4-(2-ETHYL-6-FLUORO-1-PHENYL-1H-INDOL-3-YL)-PIPERIDINE-1-CARBOXYLIC ACID TERT-BUTYL ESTER
To a solution of 4-(2-ethyl-6-fluoro-1H-indol-3-yl)piperidine-1-carboxylic acid tert-butyl ester (0.36 g) in degassed toluene (10 ml) at r.t., is added potassium phosphate (0.1 g), copper iodide (20 mg), iodobenzene (254 mg) and N,N′-dimethylcyclohexane-1,2-diamine (30 mg). The mixture is heated at reflux for 3 days. Thereafter the mixture is allowed to cool to r.t., and water (20 ml) added. Ethyl acetate (3×10 ml) is used to extract the organic components and the organic layer is washed with water, dried over MgSO4 and concentrated in vacuo. Flash chromatography (9:1 cyclohexane:ethyl acetate) gives 120 mg pure product (27%) as a brown solid.

reactant | 4-(2-ethyl-6-fluoro-1H-indol-3-yl)piperidine-1-carboxylic acid tert-butyl ester | 0.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(NC2=CC(=CC=C12)F)CC | C20H27FN2O2
reactant | potassium phosphate | 0.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | iodobenzene | 254 mg | IC1=CC=CC=C1 | C6H5I
reactant | N,N′-dimethylcyclohexane-1,2-diamine | 30 mg | CNC1C(CCCC1)NC | C8H18N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 20 mg | [Cu](I)I
solvent | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 4-(2-ETHYL-6-FLUORO-1-PHENYL-1H-INDOL-3-YL)-PIPERIDINE-1-CARBOXYLIC ACID TERT-BUTYL ESTER | 120 mg, 27% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(N(C2=CC(=CC=C12)F)C1=CC=CC=C1)CC | C26H31FN2O2
